US05123951
4-Bromo-2-methylaniline (1.48 grams, 0.008 mole), mono-ethyl formamidomalonate (1.39 grams, 0.008 mole), prepared in Part A of this Example, and 1,3-dicyclohexylcarbodiimide (1.64 grams, 0.008 mole) were reacted in a manner similar to that described in Example LVII to give 0.53 gram (0.0015 mole) of ethyl 3-[(4-bromo-2-methylphenyl)amino]-2-formamido-3-oxopropanoate as white crystals having a melting point of 174.5° C.-176° C.

reactant | 4-Bromo-2-methylaniline | 0.008 mole, 1.48 grams | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | mono-ethyl formamidomalonate | 0.008 mole, 1.39 grams | C(=O)NC(C(=O)OCC)C(=O)[O-]
reactant | 1,3-dicyclohexylcarbodiimide | 0.008 mole, 1.64 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | ethyl 3-[(4-bromo-2-methylphenyl)amino]-2-formamido-3-oxopropanoate | 0.0015 mole, 0.53 gram | BrC1=CC(=C(C=C1)NC(C(C(=O)OCC)NC=O)=O)C | C13H15BrN2O4
